US07816557B2
To a solution of racemic 4-(1-hydroxy-3-methyl-butyl)-benzoic acid methyl ester (300 mg, 1.35 mmol) in toluene (14 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 512 mg, 2.03 mmol) at 0° C., followed by the addition of tributylphosphine (0.5 mL, 2.03 mmol) and 4′-tert butyl-biphenyl-4-ol (367 mg, 1.62 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving 4-[1-(4′-tertbutyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoic acid methyl ester. The ester product is taken into ethanol (5 mL), treated with sodium hydroxide (5N aqueous, 1 mL) for 3 h at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (1 mL), extract with ethyl acetate. The organic layers are dried and concentrated giving 4-[1-(4′-tertbutyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoic acid (400 mg).

reactant | racemic 4-(1-hydroxy-3-methyl-butyl)-benzoic acid methyl ester | 1.35 mmol, 300 mg | COC(C1=CC=C(C=C1)C(CC(C)C)O)=O | C13H18O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.03 mmol, 512 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.03 mmol, 0.5 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 4′-tert butyl-biphenyl-4-ol | 1.62 mmol, 367 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C16H18O
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4′-tertbutyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C)=O | C29H34O3
